US07129232B2
To a suspension of 1,1′-carbonyldiimidazole (2.0 g) in dehydrated chloroform (30 ml) was added a solution of tert-butyl N-(2-hydroxyethyl)carbamate (1.92 g) in dehydrated chloroform (10 ml) under ice-cooling, and the mixture was stirred at room temperature for 1 hour. To the reaction mixture were added N-ethyldiisopropylamine (2.2 ml) and 4,5-diamino-1-methylpyrazole sulfuric acid salt (2.58 g), and the mixture was stirred at room temperature for 17.5 hours. To the reaction mixture were added trityl chloride (3.42 g) and triethylamine (1.25 g). The mixture was stirred at room temperature for 2 hours. The reaction mixture was washed with 10% aqueous citric acid solution, brine and saturated aqueous sodium hydrogen carbonate solution. The organic layer was dried over anhydrous magnesium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography on silica gel eluting with 5% methanol/chloroform to give 4-{[2-(tert-butoxycarbonylamino)ethoxycarbonyl]amino}-5-(tritylamino)-1-methylpyrazole (1.91 g) as a solid.

reactant | 1,1′-carbonyldiimidazole | 2.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | tert-butyl N-(2-hydroxyethyl)carbamate | 1.92 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
reactant | N-ethyldiisopropylamine | 2.2 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 4,5-diamino-1-methylpyrazole sulfuric acid salt | 2.58 g | S(O)(O)(=O)=O.NC=1C=NN(C1N)C
reactant | trityl chloride | 3.42 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1.25 g | C(C)N(CC)CC | C6H15N
product | 4-{[2-(tert-butoxycarbonylamino)ethoxycarbonyl]amino}-5-(tritylamino)-1-methylpyrazole | 1.91 g | C(C)(C)(C)OC(=O)NCCOC(=O)NC=1C=NN(C1NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C31H35N5O4
